US07759491B2
Synthesis of (1H-indazol-3-yl)methanol [Compound (I)]
Commercially available indazol-3-carboxylic acid (500 mg, 3.08 mmol) was dissolved in tetrahydrofuran (THF) (10 mL) and sodium bis(2-methoxyethoxy)aluminum hydride (70% toluene solution, 1.78 g, 6.17 mmol) was added thereto under ice-cooling, under argon atmosphere, followed by stirring for 2 hours under heating and reflux. Sodium bis(2-methoxyethoxy)aluminum hydride (70% toluene solution, 2.67 g, 9.25 mmol) was further added to the mixture under ice-cooling and the mixture was stirred for 2 hours under heating and reflux. Under ice-cooling, 2 mol/L sodium hydroxide solution (10 mL) was added, and the mixture was stirred for 15 minutes at a room temperature. The organic layer was separated and the aqueous layer was extracted with THF (5 mL, 3 times). The organic layer was collected, and washed with saturated brine. The aqueous layer was extracted with ethyl acetate (5 mL, 2 times), all organic layers were collected and dried over anhydrous magnesium sulfate followed by concentration under reduced pressure. The residue was recrystallized by toluene/THF (10:1) (5 mL) and the precipitated crystal was collected by filtration, followed by washing with torulene/THF (10:1) (1 mL). The obtained crystal was dried under reduced pressure to thereby yield Compound (I) (349 mg, 2.36 mmol, 77%).

reactant | indazol-3-carboxylic acid | 3.08 mmol, 500 mg | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 6.17 mmol, 1.78 g | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | Sodium bis(2-methoxyethoxy)aluminum hydride | 9.25 mmol, 2.67 g | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | sodium hydroxide | 2 mol/L, 10 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (1H-indazol-3-yl)methanol | N1N=C(C2=CC=CC=C12)CO | C8H8N2O
